datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])([H:5])[H:6],57.2371
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])=[C:9]([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13]>>[C:0](#[C:1][C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])[H:13],53.597
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])=[C:9]([c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:22])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:16])([H:17])[H:18])([C:8]([H:19])([H:20])[H:21])[C:9]([c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:22])[H:3],43.5136
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15](=[C:16]([H:18])[H:19])[H:17])[H:8])[H:7],4.35136
[C:0]([C:1]([C:2]([c:3]1[c:4][c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:9])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11],15.401304
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[C:17]([O:18][O:19])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][O:19][O:18][C:17]([H:20])([H:21])[H:22],76.48352
[C:0](=[O:1])[H:2].[N:3]=[O:4]>>[C-:0]#[O+:1].[H:2][N:3]=[O:4],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:20])([H:21])[H:22])([C:14](=[S:15])[H:23])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:19])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:20])([H:21])[H:22])[C:14](=[S:15])[H:23])([H:16])([H:17])[H:18],62.2579
[C:0](=[C:1]1[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]21)([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:12])([H:13])[C:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]21)([H:10])[H:11].[H:14],371.279792
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([c:6]1[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]1[H:21])[H:16])[H:12].[H:22]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])[C:5]([c:6]1[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]1[H:21])([H:16])[H:22])[H:12],9.33032
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[H:10]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][H:10],17.5728
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])([H:5])[H:6],7.5312
[C:0]([C:1]([N:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0]([C:1](=[N:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][O:9][H:10],-4.987328
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:8])([H:6])[H:7],216.731
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22](=[S:23])[H:26])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21]([C:22](=[S:23])[H:26])([H:24])[H:25],42.6768
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16],-2.46856
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0](=[C:1]([O:2][H:6])[H:5])[H:4].[H:3][H:7],63.5968
